US04495192
To a mixture of 72.1 g of zinc chloride in 200 ml of ethyl acetate was added dropwise a mixture of 40.0 g of m-nitrobenzaldehyde and 61.5 g of methyl acetoacetate at room temperature over 50 minutes. The mixture was stirred at room temperature for further 15 minutes, and further stirred while heating at 60°-65° C. for 6.5 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, then 800 ml of ether and 800 ml of water were added thereto, and the desired product was extracted with ether. The aqueous layer was extracted again with 300 ml of ether, which was combined with the first ether layer. The combined layer was washed with 200 ml of a 5% aqueous sodium bicarbonate solution, and then with 200 ml of saturated saline. This substance was dried over anhydrous magnesium sulfate, and the ether was distilled off to obtain 92.7 g of crude crystals. The crystals were recrystallized from methanol to obtain 47.7 g (yield 49.3%) of 3,5-bis(methoxycarbonyl)-4-(3-nitrophenyl)-2,6-heptanedione.

reactant | m-nitrobenzaldehyde | 40.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl acetoacetate | 61.5 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 72.1 g | [Cl-].[Zn+2].[Cl-]
product | 3,5-bis(methoxycarbonyl)-4-(3-nitrophenyl)-2,6-heptanedione | 47.7 g, yield 49.3% | COC(=O)C(C(C)=O)C(C(C(C)=O)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C17H19NO8
